US04331683
trans-N-Octyl-2-(4-nitrophenyl)cyclopropanecarboxamide
To a stirred slurry of 4.1 g. of trans-2-(4-nitrophenyl)cyclopropanecarboxylic acid in 50 ml. of chloroform was added 2.2 g. of triethylamine. The clear solution thus obtained was cooled to ca. 5° C., and a solution of 2.4 g. of ethyl chloroformate in 15 ml. of chloroform was added dropwise with stirring during 15 minutes. Stirring was continued for 20 minutes, and then a solution of 2.8 g. of octylamine in 15 ml. of chloroform was added dropwise with stirring, at 0°-5° C., during 10-15 minutes. The cooling bath was removed, and stirring was continued for 1 hour. At this point, the solvent was removed by evaporation in vacuo, and the residue was triturated under a mixture of 70 ml. of water and 15 ml. of ethanol. The solid which remained out of solution was recovered by filtration, washed with water, and dried, to give 6.2 g. of the title compound as a white solid, m.p. 126°- 129° C.

reactant | trans-2-(4-nitrophenyl)cyclopropanecarboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H9NO4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | octylamine | C(CCCCCCC)N | C8H19N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | trans-N-Octyl-2-(4-nitrophenyl)cyclopropanecarboxamide | C(CCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)[N+](=O)[O-] | C18H26N2O3
